US07875636B2
A solution of 40 g (170 mmol) 2-(acetoxymethyl)-5-bromopyridine in conc. HCl (200 ml) was heated to reflux for 1 hour. The solution was concentrated in vacuo and the residue was neutralized with aq. KHCO3 and extracted with CH2Cl2. Concentration of the extract afforded 2-hydroxymethyl-5-bromopyridine. 1H-NMR (400 MHz, DMSO) δ 8.57 (d, J=2.4 Hz, 1H), 8.00 (m, 1H), 7.42 (q, J1=8.4 Hz, J2=0.6 Hz, 1H), 5.49 (t, J=5.4 Hz, 1H), 4.50 (d, J=4.8 Hz, 2H) m/z: 189.12 (M+1)

reactant | 2-(acetoxymethyl)-5-bromopyridine | 170 mmol, 40 g | C(C)(=O)OCC1=NC=C(C=C1)Br | C8H8BrNO2
solvent | HCl | 200 ml | Cl | ClH
product | 2-hydroxymethyl-5-bromopyridine | OCC1=NC=C(C=C1)Br | C6H6BrNO
